US07851463B2
31.6 N-[6-(1-propyl-pyrrolidin-3-yl)-pyridin-3-yl]-4-isopropyl-benzene-sulfonamide
0.088 g of N-[6-(1-benzyl-pyrrolidin-3-yl)-pyridin-3-yl]-4-isopropyl-benzene-sulfonamide (0.25 mmol) were dissolved in 10 ml of dichloromethane. 0.022 g of propionyl aldehyde (0.38 mmol), 0.023 g of acetic acid (0.38 mmol) and 0.081 g of sodium triacetoxyborohydride (0.38 mmol) were added and stirred for 1 h at room temperature. Water was added, the pH adjusted to 10 with 1 N sodium hydroxide, extracted three times with ethyl acetate, the organic layers combined and evaporated to dryness. The crude material was purified via silica gel chromatography with dichloromethane/methanol 20%. Fractions containing the product were combined and the solvent evaporated to yield 0.026 mg of the product.

reactant | N-[6-(1-benzyl-pyrrolidin-3-yl)-pyridin-3-yl]-4-isopropyl-benzene-sulfonamide | 0.25 mmol, 0.088 g | C(C1=CC=CC=C1)N1CC(CC1)C1=CC=C(C=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C | C25H29N3O2S
reactant | acetic acid | 0.38 mmol, 0.023 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.38 mmol, 0.081 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | N-[6-(1-propyl-pyrrolidin-3-yl)-pyridin-3-yl]-4-isopropyl-benzene-sulfonamide | 0.026 mg | C(CC)N1CC(CC1)C1=CC=C(C=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C | C21H29N3O2S
